US06930120B2
3-{3-methoxy-4-[2-(5-methyl-2-thiophen-2-yl-oxazol-4-yl)ethoxy]phenyl-2-methyl-2-phenoxypropionic acid
The title compound was prepared from 2-(5-methyl-2-thiophen-2-yloxazol-4-yl)ethyl tosylate and 3-(4-hydroxy-3-methoxyphenyl)-2-methyl-2-phenoxypropionic acid ethyl ester according to the parallel synthesis procedure (A). MS (EI) 494.4 (M+H)+.

reactant | 2-(5-methyl-2-thiophen-2-yloxazol-4-yl)ethyl tosylate | S(=O)(=O)(OCCC=1N=C(OC1C)C=1SC=CC1)C1=CC=C(C)C=C1 | C17H17NO4S2
reactant | 3-(4-hydroxy-3-methoxyphenyl)-2-methyl-2-phenoxypropionic acid ethyl ester | C(C)OC(C(CC1=CC(=C(C=C1)O)OC)(OC1=CC=CC=C1)C)=O | C19H22O5
product | 3-methoxy-4-[2-(5-methyl-2-thiophen-2-yl-oxazol-4-yl)ethoxy]phenyl-2-methyl-2-phenoxypropionic acid | COC=1C=C(C=CC1OCCC=1N=C(OC1C)C=1SC=CC1)CC(C(=O)O)(OC1=CC=CC=C1)C | C27H27NO6S
